US09120749B2
(6-bromo-4-((trans-4-((3-methoxypyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone
To a solution of (trans-4-((6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)cyclohexyl)methyl methanesulfonate (362 mg, 0.75 mmol) and 3-methoxypyrrolidine hydrochloride (410 mg, 2.98 mmol) in acetonitrile (15 mL) was added K2CO3 (1.24 g, 9 mmol) and KI (300 mg, 1.81 mmol) and N,N-diisopropylethylamine (0.5 mL, 2.9 mmol) and the reaction mixture was heated at 50° C. for 16 h and 80° C. for 24 h. The solution was cooled to room temperature, diluted with satd. aq. NaHCO3 and extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate, concentrated and purification by column chromatography (silica, 0-20% methanol/dichloromethane) to afford the desired product (155 mg, 42%) as an off-white solid. ESI MS m/z 486 [C25H32BrN3O2+H]+

reactant | (trans-4-((6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)cyclohexyl)methyl methanesulfonate | 0.75 mmol, 362 mg | CS(=O)(=O)OC[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)Br)C(=O)C1CC1 | C21H25BrN2O4S
reactant | 3-methoxypyrrolidine hydrochloride | 2.98 mmol, 410 mg | Cl.COC1CNCC1
reactant | K2CO3 | 9 mmol, 1.24 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N,N-diisopropylethylamine | 2.9 mmol, 0.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | (6-bromo-4-((trans-4-((3-methoxypyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone | 155 mg, 42% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CN1CC(CC1)OC | C25H32BrN3O2
